US08754226B2
To a solution of (S)-tert-butyl 2-oxo-1-(piperidin-4-yl)pyrrolidin-3-ylcarbamate (4.0 g, 14 mmol) in DMF (50 mL) was added N-ethyl-N-isopropylpropan-2-amine (5.5 g, 42 mmol) and 2,3-dichloro-5-(trifluoromethyl)pyridine (9.1 g, 42 mmol) and the reaction was stirred overnight at ambient temperature. The reaction was diluted with EtOAc (about 200 mL) and the organic layer was washed with water (100 mL), and brine (50 mL), dried over MgSO4, and concentrated under vacuum. The crude material was purified on silica using a gradient of DCM to 5% EtOAc/DCM as eluent to give (S)-tert-butyl 1-(1-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)piperidin-4-yl)-2-oxopyrrolidin-3-ylcarbamate (4.0 g, 61%).

reactant | (S)-tert-butyl 2-oxo-1-(piperidin-4-yl)pyrrolidin-3-ylcarbamate | 14 mmol, 4.0 g | O=C1N(CC[C@@H]1NC(OC(C)(C)C)=O)C1CCNCC1 | C14H25N3O3
reactant | N-ethyl-N-isopropylpropan-2-amine | 42 mmol, 5.5 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2,3-dichloro-5-(trifluoromethyl)pyridine | 42 mmol, 9.1 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | about 200 mL | CCOC(=O)C | C4H8O2
product | (S)-tert-butyl 1-(1-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)piperidin-4-yl)-2-oxopyrrolidin-3-ylcarbamate | 4.0 g, 61% | ClC=1C(=NC=C(C1)C(F)(F)F)N1CCC(CC1)N1C([C@H](CC1)NC(OC(C)(C)C)=O)=O | C20H26ClF3N4O3
